US09102688B2
6-Trifluoromethyl-pyridine-3-sulfonic acid quinolin-8-ylamide (Example Compound 89)
In a similar fashion using route 14 general procedure 27, 8-aminoquinoline (200 mg, 1.38 mmol), 6-(trifluoromethyl)pyridine-3-sulfonyl chloride (0.31 g, 1.25 mmol) and DMAP (cat) gave the title compound (250 mg, 58%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 1.38 mmol, 200 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 6-(trifluoromethyl)pyridine-3-sulfonyl chloride | 1.25 mmol, 0.31 g | FC(C1=CC=C(C=N1)S(=O)(=O)Cl)(F)F | C6H3ClF3NO2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-Trifluoromethyl-pyridine-3-sulfonic acid quinolin-8-ylamide | 250 mg, 58% | N1=CC=CC2=CC=CC(=C12)NS(=O)(=O)C=1C=NC(=CC1)C(F)(F)F | C15H10F3N3O2S
